US08614226B2
A slurry of 266 mg (1.12 mmol) 3-bromo-5-(1-methyl-1H-pyrazol-4-yl)-pyridine and 1.30 g (2.23 mmol) magnesium monoperoxyphthalate hexahydrate (85%) in 5 ml 2-propanol was stirred for 18 hours at room temperature. The reaction mixture was evaporated and the residue partitioned between saturated sodium bicarbonate solution and dichloromethane. The organic phase was dried over sodium sulfate and evaporated yielding 3-bromo-5-(1-methyl-1H-pyrazol-4-yl)-pyridine 1-oxide as slightly yellow solid; HPLC-MS: 1.34 min, [M+H] 254/256.

reactant | 3-bromo-5-(1-methyl-1H-pyrazol-4-yl)-pyridine | 1.12 mmol, 266 mg | BrC=1C=NC=C(C1)C=1C=NN(C1)C | C9H8BrN3
reactant | magnesium monoperoxyphthalate hexahydrate | 2.23 mmol, 1.30 g | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 3-bromo-5-(1-methyl-1H-pyrazol-4-yl)-pyridine 1-oxide | BrC=1C=[N+](C=C(C1)C=1C=NN(C1)C)[O-] | C9H8BrN3O
